### PR TITLE
fill holes in completeness

### PR DESCRIPTION
**Pull request by jiangsy**

### CODE REVIEW

**Comment by jiangsy** [comment]
it seems we need to add `Γ, A, A[Wk], Eq A[Wk∘Wk] #1 #0 ⊢ B : Type@j` to `wf_exp_eq_eqrec_cong` because `Γ, A, A[Wk], Eq A[Wk∘Wk] #1 #0 ⊨ B : Type@j ` is helpful to the proof of completeness. I think it's fine to add it, right?

**Comment by Ailrun** [comment]
You can obtain that at the beginning using symmetry instead of changing the syntactic judgement

**Comment by jiangsy** [comment]
symmetry is valid for PER, but not, at least trivially, for the semantic judgment itself? SImilarly, `{{ Γ ⊨ M1 : A }}` is also included in the premise, though we already have `Γ ⊨ M1 ≈ M1' : A`

**Comment by jiangsy** [comment]
the completeness is all done. some possible known issues: (1) usage of UIP (#282); (2) significantly longer type checking (9 mins alone for `Completeness/EqCases.v`, more than the total of all the remaining); (3) some non-robust tactics that are brittle to changes, like `apply H58`

File: theories/Core/Completeness/EqualityCases.v [hunk 1]
```diff
@@ -128,6 +129,254 @@ Qed.
...
+  etransitivity; [eassumption |].
+  intros s.
+  match_by_head per_bot ltac:(fun H => specialize (H s) as [? []]).
+  eexists; split; [eassumption |].
+  dir_inversion_by_head read_ne; subst.
+  simplify_evals.
+  mauto.
+Qed.
+
+Lemma equiv_rel_PER : forall {A R R'},
```
Comment (HuStmpHrrr) [inline theories/Core/Completeness/EqualityCases.v:358]: move this somewhere else? I think we have a place for lemmas like this?

File: theories/Core/Semantic/PER/CoreTactics.v [hunk 2]
```diff
@@ -6,16 +6,23 @@ From Mctt.Core Require Import Base.
 From Mctt.Core.Semantic Require Import PER.Definitions.
 Import Domain_Notations.
 
+Ltac lazy_destruct H H' :=
+  match type of H with
+  | forall _ _ _, exists _, _ => pose proof (H _ _ H'); deex_once
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PER/CoreTactics.v:11]: why 3? this is too specific?
